US08017630B2
2-(4-Dimethylamino-4-phenylcyclohexylidene)-N-phenylethyl-acetamide hydrochloride (Example 7)
2-(4-Dimethylamino-4-phenylcyclohexylidene)-N-phenylethylacetamide (225 mg, 0.62 mmol) was dissolved in ethyl methyl ketone (12 ml) with gentle heating and chlorotrimethylsilane (0.118 ml, 0.93 mmol) was added. After 2 h the product was isolated as a colourless solid in a yield of 86% (213 mg).

reactant | 2-(4-Dimethylamino-4-phenylcyclohexylidene)-N-phenylethylacetamide | 0.62 mmol, 225 mg | CN(C1(CCC(CC1)=CC(=O)NCCC1=CC=CC=C1)C1=CC=CC=C1)C | C24H30N2O
reactant | chlorotrimethylsilane | 0.93 mmol, 0.118 ml | Cl[Si](C)(C)C | C3H9ClSi
solvent | ethyl methyl ketone | 12 ml | CC(=O)CC | C4H8O
product | 2-(4-Dimethylamino-4-phenylcyclohexylidene)-N-phenylethyl-acetamide hydrochloride | yield of 86% | Cl.CN(C1(CCC(CC1)=CC(=O)NCCC1=CC=CC=C1)C1=CC=CC=C1)C | InChI=1S/C24H30N2O.ClH/c1-26(2)24(22-11-7-4-8-12-22)16-13-21(14-17-24)19-23(27)25-18-15-20-9-5-3-6-10-20;/h3-12,19H,13-18H2,1-2H3,(H,25,27);1H
